US20010020034A1
2-Cyano-3-mercapto-3-phenoxycarbonylamino-acrylimidic acid benzyl ester
To a stirred 0° C. solution of 2-cyano-acetimidic acid benzyl ester (327 g, 1.88 mol) in acetonitrile (1 L) was added a 0° C. solution of phenoxycarbonylisothiocyanate (353 g, 1.97 mol) in acetonitrile (1 L). The reaction was allowed to warm to ambient temperature and was stirred overnight. The mixture was then placed in the refrigerator and kept still at 5° C. for 48 hours. The solid product was filtered, compressed, and washed with 20° C. acetonitrile (3×200 mL). Air was then drawn though the relatively stable solid followed by further drying under high vacuum to yield a yellow solid (282 g, 798 mmol, 42%). 1H NMR (400 MHz, DMSO) δ 5.39 (s, 2H), 7.11-7.19 (m, 2H), 7.20-7.24 (m, 1H), 7.36-7.46 (m, 7H), 10.23 (broad s, 1H), 10.67 (s, 1H), 12.19 (broad s, 1H) ppm; MS (APCl, m/z): 354 [M+H]+.

reactant | 2-cyano-acetimidic acid benzyl ester | 1.88 mol, 327 g | C(C1=CC=CC=C1)OC(CC#N)=N | C10H10N2O
reactant | phenoxycarbonylisothiocyanate | 1.97 mol, 353 g | O(C1=CC=CC=C1)C(=O)N=C=S | C8H5NO2S
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
product | 2-Cyano-3-mercapto-3-phenoxycarbonylamino-acrylimidic acid benzyl ester | 798 mmol, 282 g, 42% | C(C1=CC=CC=C1)OC(C(=C(NC(=O)OC1=CC=CC=C1)S)C#N)=N | C18H15N3O3S
